US06005116
(b) 3-(2-Aminoethoxy)-5-phenylisoxazole hydrochloride
A solution of 4N hydrochloric acid/1,4-dioxane (4.0 ml) was added to 3-(2-(N-tert-butoxycarbonylamino)ethoxy)-5-phenylisoxazole (0.50 g), and the mixture was stirred at room temperature for 15 minutes. The precipitate was separated from the mixture by filtration and washed with ethyl acetate to obtain the title compound (0.39 g, 99%) as colorless crystals.

reactant | hydrochloric acid 1,4-dioxane | 4N, 4.0 ml | Cl.O1CCOCC1
reactant | 3-(2-(N-tert-butoxycarbonylamino)ethoxy)-5-phenylisoxazole | 0.50 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=CC=C1 | C16H20N2O4
product | 3-(2-Aminoethoxy)-5-phenylisoxazole hydrochloride | 0.39 g, 99% | Cl.NCCOC1=NOC(=C1)C1=CC=CC=C1 | InChI=1S/C11H12N2O2.ClH/c12-6-7-14-11-8-10(15-13-11)9-4-2-1-3-5-9;/h1-5,8H,6-7,12H2;1H
